US04035509
24.0 G. of sodium (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)carboxylate in 1000 ml. of water is added to a mixture of 5.55 g. of calcium chloride in 300 ml. of water, and the mixture is allowed to stand for 12 hours at room temperature. The mixture is then filtered, and the filtered salt washed several times with portions of ice cold water. The washed salt is dried under vaccum to yield calcium (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)carboxylate.

reactant | sodium (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)carboxylate | O=C1C2=C(C=CC3=C1C=CC(=C3)C(=O)[O-])C=CC=C2.[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | water | O | H2O
product | calcium (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)carboxylate | O=C1C2=C(C=CC3=C1C=CC(=C3)C(=O)[O-])C=CC=C2.[Ca+2].O=C2C3=C(C=CC1=C2C=CC(=C1)C(=O)[O-])C=CC=C3 | InChI=1S/2C16H10O3.Ca/c2*17-15-13-4-2-1-3-10(13)5-6-11-9-12(16(18)19)7-8-14(11)15;/h2*1-9H,(H,18,19);/q;;+2/p-2
